US08895582B2
To a solution of (S)-3-(2-chloro-3-fluorobenzyl)-1-(5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl)-1-methylurea (480 mg, 1.07 mmol), 5-chloropicolinic acid (339 mg, 2.15 mmol), and DIEA (0.36 mL, 2.15 mmol) in toluene (10 mL) was added DPPA (0.46 mL, 2.15 mmol). The reaction mixture was heated to 100° C. for 2 h and concentrated to dryness. The residue was purified on RP-HPLC using a mixture of acetonitrile and water to give (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(1,3-dioxoisoindolin-2-yl)pentyl 5-chloropyridin-2-ylcarbamate (280 mg, 80% pure). LRMS (M+H+) m/z 602.2.

reactant | (S)-3-(2-chloro-3-fluorobenzyl)-1-(5-(1,3-dioxoisoindolin-2-yl)-1-hydroxypentan-2-yl)-1-methylurea | 1.07 mmol, 480 mg | ClC1=C(CNC(N(C)[C@H](CO)CCCN2C(C3=CC=CC=C3C2=O)=O)=O)C=CC=C1F | C22H23ClFN3O4
reactant | 5-chloropicolinic acid | 2.15 mmol, 339 mg | ClC=1C=CC(=NC1)C(=O)O | C6H4ClNO2
reactant | DIEA | 2.15 mmol, 0.36 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DPPA | 2.15 mmol, 0.46 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-5-(1,3-dioxoisoindolin-2-yl)pentyl 5-chloropyridin-2-ylcarbamate | 280 mg, 80% | ClC=1C=CC(=NC1)NC(OC[C@H](CCCN1C(C2=CC=CC=C2C1=O)=O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C28H26Cl2FN5O5
